US07479502B2
Proceeding as in Reference 19, but substituting 4-benzyloxy-3-bromo-5-formyl-benzoic acid methyl ester (1.0 g, 2.71 mmol) and 5-fluoro-2-methoxyphenyl boronic acid (0.691 g, 4.16 mmol), gave 6-benzyloxy-5′-fluoro-5-formyl-2′-methoxybiphenyl-3-carboxylic acid methyl ester (0.620 g).

reactant | 4-benzyloxy-3-bromo-5-formyl-benzoic acid methyl ester | 2.71 mmol, 1.0 g | COC(C1=CC(=C(C(=C1)C=O)OCC1=CC=CC=C1)Br)=O | C16H13BrO4
reactant | 5-fluoro-2-methoxyphenyl boronic acid | 4.16 mmol, 0.691 g | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
product | 6-benzyloxy-5′-fluoro-5-formyl-2′-methoxybiphenyl-3-carboxylic acid methyl ester | 0.620 g | COC(=O)C=1C=C(C(=C(C1)C=O)OCC1=CC=CC=C1)C1=C(C=CC(=C1)F)OC | C23H19FO5
